US20010027196A1
2-Amino-4-benzo[1,3]dioxol-5-yl-6-phenylsulfanyl-pyrimidine-5-carbonitrile
From 2-amino-4-benzo[1,3]dioxol-5-yl-6-methanesulfonyl-pyrimidine-5-carbonitrile, thiophenol and DBU in DME. EI-MS m/e (%): 348 (M+, 96), 347 ([M—H]+, 100).

reactant | 2-amino-4-benzo[1,3]dioxol-5-yl-6-methanesulfonyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C1=CC2=C(OCO2)C=C1)C#N)S(=O)(=O)C | C13H10N4O4S
reactant | thiophenol | C1(=CC=CC=C1)S | C6H6S
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-benzo[1,3]dioxol-5-yl-6-phenylsulfanyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C1=CC2=C(OCO2)C=C1)C#N)SC1=CC=CC=C1 | C18H12N4O2S
